### PR TITLE
Added `conjecture_4_1` to `conjecture_4_4`

### LINKED ISSUE #611: Add further conjectures from 2501.03234 ( Conjectures 4.1, 4.2, 4.3 and 4.4 )
### What are the conjectures
These conjectures are located in [2501.0324](https://arxiv.org/pdf/2501.03234).
It concerns the sums:
$$S'(h, m):=\sum_{j=1}^{m-1}(-1)^{j+1+[h j / m]}$$ and $$S(k):=\sum_{h=1}^{k-1} S'(h, k)$$
for $$h$$ and $$k$$ positive integers , and [ ] is the standard floor function. 

In the following, assume $$k$$ is an odd prime:
- **Conjecture 4.1** For $$k>5$$, $$S(k) > k$$.
- **Conjecture 4.2** For $$k>233$$, $$S(k) > 2k$$.
- **Conjecture 4.3** For $$k>3119$$, $$S(k) > 3k$$.
- **Conjecture 4.3** For $$n \in $$ℕ, $$S(k) > nk$$ for all sufficiently large prime $k$, and depending on $n$.

### Prerequisites needed
Currently [both sums exist](https://google-deepmind.github.io/formal-conjectures/FormalConjectures/Arxiv/2501.03234/Conjecture_1_1.html#Conjecture-1-1) in the current repo, within the namespace `Arxiv.id250103234`.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this conjecture to the repository
- [ ] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by YanYablonovskiy**
Adding the remaining conjectures of https://arxiv.org/pdf/2501.03234 . Coalesced all in one files, with auxiliary definitions to use examples (edit: now test tagged thms) as lemmatas.

closes #611

### CODE REVIEW

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean
Comment (mo271) [inline FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean:1]: I don't think we want sections for each of the conjecture

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean [hunk 1]
```diff
@@ -0,0 +1,153 @@
...
+-/
+@[category research open, AMS 11]
+theorem conjecture_4_1 : conjecture_4_1_def := by
+  sorry
+
+end Conjecture_4_1
+
+section Conjecture_4_2
+
+def conjecture_4_2_def := ∀k, (hprim: Nat.Prime k) → (hodd: Odd k) → (hgt: k > 233) → (2*k < S k)
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]:
```suggestion
def conjecture_4_2_def := ∀ k, (hprim : Nat.Prime k) → (hodd : Odd k) → (hgt : k > 233) → (2 * k < S k)

```

Comment (mo271) [reply FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]: same in many other places.

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean [hunk 2]
```diff
@@ -0,0 +1,153 @@
...
+  simp [conjecture_4_4_def, Filter.Eventually]
+  exact ⟨233+1,fun b sb bprim bodd ↦ hc4_2 b bprim bodd (by linarith)⟩
+
+/--
+**Conjecture 4.3 → Conjecture 4.4**: If conjecture 4.3 holds true, then a special
+case of conjecture 4.4 for n = 3 is obtained, and the lower bound is 3119.
+-/
+example (hc4_3: conjecture_4_3_def ) : conjecture_4_4_def 3 := by
+  simp [conjecture_4_4_def, Filter.Eventually]
+  exact ⟨3119+1,fun b sb bprim bodd ↦ hc4_3 b bprim bodd (by linarith)⟩
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]:
```suggestion
  exact ⟨3119+1, fun b sb bprim bodd ↦ hc4_3 b bprim bodd (by linarith)⟩

```

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean [hunk 3]
```diff
@@ -0,0 +1,153 @@
...
+  simp [conjecture_4_4_def, Filter.Eventually]
+  exact ⟨5+1,fun b sb bprim bodd ↦ hc4_1 b bprim bodd (by linarith)⟩
+
+/--
+**Conjecture 4.2 → Conjecture 4.4**: If conjecture 4.2 holds true, then this implies a special
+case of conjecture 4.4 for n = 2. For this scenario, the lower bound is now 233.
+-/
+example (hc4_2: conjecture_4_2_def ) : conjecture_4_4_def 2 := by
+  simp [conjecture_4_4_def, Filter.Eventually]
+  exact ⟨233+1,fun b sb bprim bodd ↦ hc4_2 b bprim bodd (by linarith)⟩
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]:
```suggestion
  exact ⟨233+1, fun b sb bprim bodd ↦ hc4_2 b bprim bodd (by linarith)⟩

```

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean [hunk 4]
```diff
@@ -0,0 +1,153 @@
...
+-/
+example (hc4_1: conjecture_4_1_def ) : conjecture_4_4_def 1 := by
+  simp [conjecture_4_4_def, Filter.Eventually]
+  exact ⟨5+1,fun b sb bprim bodd ↦ hc4_1 b bprim bodd (by linarith)⟩
+
+/--
+**Conjecture 4.2 → Conjecture 4.4**: If conjecture 4.2 holds true, then this implies a special
+case of conjecture 4.4 for n = 2. For this scenario, the lower bound is now 233.
+-/
+example (hc4_2: conjecture_4_2_def ) : conjecture_4_4_def 2 := by
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]:
```suggestion
example (hc4_2 : conjecture_4_2_def) : conjecture_4_4_def 2 := by

```

**Review by mo271 — COMMENTED** [review]
a first few quick comments

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean (hunk 4 above)
Comment (YanYablonovskiy) [reply FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]: My bad, I usually have a linter abide my laziness. Will fix up.

**Comment by mo271** [comment]
In general, we can avoid having all these `foo_def` definitions. Here's an example how:

```
/--
**Conjecture 1.1**: For any odd prime k, the sum associated with the classical theta function θ₃,
$S(k)$ is positive.
-/
@[category research open, AMS 11]
theorem conjecture_1_1 (k : ℕ) (hprim : Nat.Prime k) (hodd : Odd k) : 0 < S k := by
  sorry

/--
**Conjecture 4.4**: Given a natural number $n ∈ ℕ$, for all large enough odd prime k (depending on n),
$nk < S(k)$.
-/
@[category research open, AMS 11]
theorem conjecture_4_4 (n : ℕ)  :  ∀ᶠ k : ℕ in Filter.atTop, Nat.Prime k → Odd k → (n * k < S k) := by
  sorry
/--
**Conjecture 1.1 → Conjecture 4.4**: If conjecture 1.1 holds true, then this implies a special
case of conjecture 4.4 where n = 0. In this case the lower bound would be 0 (for odd primes).
-/
@[category test, AMS 11]
theorem conjecture_4_4_def_0 (hc1_1: type_of% conjecture_1_1) : type_of% (conjecture_4_4 0)  := by
  simp only [Filter.Eventually, CharP.cast_eq_zero, zero_mul, mem_atTop_sets, ge_iff_le,
    Set.mem_setOf_eq]
  exact ⟨0, fun b sb bprim bodd ↦ hc1_1 b bprim bodd⟩
  
  ```

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean [hunk 5]
```diff
@@ -0,0 +1,126 @@
...
+  decide +kernel
+
+end SumS
+
+/--
+**Conjecture 1.1**: For any odd prime k, the sum associated with the classical theta function θ₃,
+$S(k)$ is positive.
+-/
+@[category research open, AMS 11]
+theorem conjecture_1_1 (k : ℕ) (hprim : Nat.Prime k) (hodd : Odd k) : 0 < S k := by
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]:
```suggestion
theorem conjecture_1_1 (k : ℕ) (hprim : k.Prime) (hodd : Odd k) : 0 < S k := by
```

also at all other places

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean [hunk 6]
```diff
@@ -0,0 +1,126 @@
...
+@[category research open, AMS 11]
+theorem conjecture_4_3 (k : ℕ) (hprim : Nat.Prime k) (hodd : Odd k) (hgt : k > 3119) : 3 * k < S k := by
+  sorry
+
+/--
+**Conjecture 4.4**: Given a natural number $n ∈ ℕ$, for all large enough odd prime k (depending on n),
+$nk < S(k)$.
+-/
+@[category research open, AMS 11]
+theorem conjecture_4_4 (n : ℕ)  :  ∀ᶠ k : ℕ in Filter.atTop, Nat.Prime k → Odd k → n * k < S k := by
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]:
```suggestion
theorem conjecture_4_4 (n : ℕ) : ∀ᶠ (k : ℕ) in Filter.atTop, Nat.Prime k → Odd k → n * k < S k := by
```

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean [hunk 7]
```diff
@@ -0,0 +1,126 @@
...
+/--
+**Conjecture 1.1**: For any odd prime k, the sum associated with the classical theta function θ₃,
+$S(k)$ is positive.
+-/
+@[category research open, AMS 11]
+theorem conjecture_1_1 (k : ℕ) (hprim : Nat.Prime k) (hodd : Odd k) : 0 < S k := by
+  sorry
+
+/--
+**Conjecture 4.1**: For any prime k larger than 5,  $S(k) > k$.
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]:
```suggestion
**Conjecture 4.1**: For any prime k larger than 5, $S(k) > k$.
```

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean [hunk 8]
```diff
@@ -0,0 +1,126 @@
...
+@[category research open, AMS 11]
+theorem conjecture_4_4 (n : ℕ)  :  ∀ᶠ k : ℕ in Filter.atTop, Nat.Prime k → Odd k → n * k < S k := by
+  sorry
+
+/--
+**Conjecture 1.1 → Conjecture 4.4**: If conjecture 1.1 holds true, then this implies a special
+case of conjecture 4.4 where n = 0. In this case the lower bound would be 0 (for odd primes).
+-/
+@[category test, AMS 11]
+theorem conjecture_4_4_def_0 (hc1_1: type_of% conjecture_1_1) : type_of% (conjecture_4_4 0)  := by
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]:
```suggestion
theorem conjecture_4_4_def_0 (hc1_1: type_of% conjecture_1_1) : type_of% (conjecture_4_4 0) := by
```

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean [hunk 9]
```diff
@@ -0,0 +1,126 @@
...
+-- note that in Table 1 in  https://arxiv.org/abs/2501.03234v1, there seems to be an error:
+-- 11 appears twice
+example : List.map S (List.range 10) = [0, 0, 1, 2, 5, 4, 7, 10, 11, 8] := by
+  unfold S
+  decide +kernel
+
+end SumS
+
+/--
+**Conjecture 1.1**: For any odd prime k, the sum associated with the classical theta function θ₃,
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]:
```suggestion
**Conjecture 1.1**: For any odd prime $k$, the sum associated with the classical theta function $θ_3$,
```

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean [hunk 10]
```diff
@@ -0,0 +1,126 @@
...
+$S(k)$ is positive.
+-/
+@[category research open, AMS 11]
+theorem conjecture_1_1 (k : ℕ) (hprim : k.Prime) (hodd : Odd k) : 0 < S k := by
+  sorry
+
+/--
+**Conjecture 4.1**: For any prime k larger than 5, $S(k) > k$.
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]:
```suggestion
**Conjecture 4.1**: For any prime $k$ larger than $5$, $S(k) > k$.
```

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean [hunk 11]
```diff
@@ -0,0 +1,126 @@
...
+-/
+@[category research open, AMS 11]
+theorem conjecture_4_1 (k : ℕ) (hprim : k.Prime) (hodd : Odd k) (hgt : k > 5) : k < S k := by
+  sorry
+
+/--
+**Conjecture 4.2**: For any prime k larger than 233, $S(k) > 2k$.
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]:
```suggestion
**Conjecture 4.2**: For any prime $k$ larger than $233$, $S(k) > 2k$.
```

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean [hunk 12]
```diff
@@ -0,0 +1,126 @@
...
+-/
+@[category research open, AMS 11]
+theorem conjecture_4_2 (k : ℕ) (hprim : k.Prime) (hodd : Odd k) (hgt : k > 233) : 2 * k < S k := by
+  sorry
+
+/--
+**Conjecture 4.3**: For any prime k larger than 3119, $S(k) > 3k$.
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]:
```suggestion
**Conjecture 4.3**: For any prime $k$ larger than $3119$, $S(k) > 3k$.
```

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean [hunk 13]
```diff
@@ -0,0 +1,126 @@
...
+-/
+@[category research open, AMS 11]
+theorem conjecture_4_3 (k : ℕ) (hprim : k.Prime) (hodd : Odd k) (hgt : k > 3119) : 3 * k < S k := by
+  sorry
+
+/--
+**Conjecture 4.4**: Given a natural number $n ∈ ℕ$, for all large enough odd prime k (depending on n),
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]:
```suggestion
**Conjecture 4.4**: Given a natural number $n ∈ ℕ$, for all large enough odd prime $k$ (depending on $n$),
```

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean [hunk 14]
```diff
@@ -0,0 +1,126 @@
...
+$nk < S(k)$.
+-/
+@[category research open, AMS 11]
+theorem conjecture_4_4 (n : ℕ) : ∀ᶠ (k : ℕ) in Filter.atTop, k.Prime → Odd k → n * k < S k := by
+  sorry
+
+/--
+**Conjecture 1.1 → Conjecture 4.4**: If conjecture 1.1 holds true, then this implies a special
+case of conjecture 4.4 where n = 0. In this case the lower bound would be 0 (for odd primes).
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]:
```suggestion
**Conjecture 1.1 → Conjecture 4.4**: If conjecture 1.1 holds true, then this implies a special
case of conjecture 4.4 where $n = 0$. In this case the lower bound would be 0 (for odd primes).
```

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean [hunk 15]
```diff
@@ -0,0 +1,126 @@
...
+-/
+@[category test, AMS 11]
+theorem conjecture_4_4_def_0 (hc1_1: type_of% conjecture_1_1) : type_of% (conjecture_4_4 0) := by
+  simp only [Filter.Eventually, CharP.cast_eq_zero, zero_mul, Filter.mem_atTop_sets]
+  exact ⟨0, fun b sb bprim bodd ↦ hc1_1 b bprim bodd⟩
+
+/--
+**Conjecture 4.1 → Conjecture 4.4**: If conjecture 4.1 holds true, then this implies a special
+case of conjecture 4.4 where n = 1. In this case the lower bound would be 5.
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]:
```suggestion
**Conjecture 4.1 → Conjecture 4.4**: If conjecture 4.1 holds true, then this implies a special
case of conjecture 4.4 where $n = 1$. In this case the lower bound would be $5$.
```

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean [hunk 16]
```diff
@@ -0,0 +1,126 @@
...
+-/
+@[category test, AMS 11]
+theorem conjecture_4_4_def_1 (hc4_1: type_of% conjecture_4_1) : type_of% (conjecture_4_4 1) := by
+  simp [Filter.Eventually, Filter.mem_atTop_sets]
+  exact ⟨5+1, fun b sb bprim bodd ↦ hc4_1 b bprim bodd (by linarith)⟩
+
+/--
+**Conjecture 4.2 → Conjecture 4.4**: If conjecture 4.2 holds true, then this implies a special
+case of conjecture 4.4 for n = 2. For this scenario, the lower bound is now 233.
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]:
```suggestion
**Conjecture 4.2 → Conjecture 4.4**: If conjecture 4.2 holds true, then this implies a special
case of conjecture 4.4 for $n = 2$. For this scenario, the lower bound is now $233$.
```

File: FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean [hunk 17]
```diff
@@ -0,0 +1,126 @@
...
+-/
+@[category test, AMS 11]
+theorem conjecture_4_4_def_2 (hc4_2: type_of% conjecture_4_2) : type_of% (conjecture_4_4 2) := by
+  simp only [Filter.Eventually, Filter.mem_atTop_sets]
+  exact ⟨233+1, fun b sb bprim bodd ↦ hc4_2 b bprim bodd (by linarith)⟩
+
+/--
+**Conjecture 4.3 → Conjecture 4.4**: If conjecture 4.3 holds true, then a special
+case of conjecture 4.4 for n = 3 is obtained, and the lower bound is 3119.
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.03234/ArithmeticSumS.lean]:
```suggestion
**Conjecture 4.3 → Conjecture 4.4**: If conjecture 4.3 holds true, then a special
case of conjecture 4.4 for $n = 3$ is obtained, and the lower bound is $3119$.
```
